US07456289B2
A mixture of 6-methoxy-1H-indazole-3-carboxylic acid (0.200 g, 1.04 mmol) in THF (15 mL) was stirred for 10 min at 0° C. under N2. LAH was added and the mixture was stirred overnight at room temperature under N2. Then, an aqueous NH4Cl solution (5 mL) was added and the reaction mixture was concentrated to half its volume and extracted with EtOAc. The organic layer was washed with brine and water, dried over anhydrous MgSO4, and the solvent removed in vacuo to give a residue. MnO2 (0.680 g, 7.8 mmol) was added to the residue in anhydrous CH2Cl2 (15 mL) at 0° C. with stirring. After the addition, the mixture was stirred at room temperature for 8 h. The mixture was diluted with anhydrous ether (50 mL) and filtered through a pad of Celite. The filtrate was concentrated in vacuo and the residue was purified by flash chromatography to give 6-methoxy-1H-indazole-3-carbaldehyde (0.100 g, 56%).

reactant | 6-methoxy-1H-indazole-3-carboxylic acid | 1.04 mmol, 0.200 g | COC1=CC=C2C(=NNC2=C1)C(=O)O | C9H8N2O3
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NH4Cl | 5 mL | [NH4+].[Cl-]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 50 mL | CCOCC | C4H10O
catalyst | MnO2 | 7.8 mmol, 0.680 g | O=[Mn]=O
product | 6-methoxy-1H-indazole-3-carbaldehyde | 0.100 g, 56% | COC1=CC=C2C(=NNC2=C1)C=O | C9H8N2O2
